US07202269B2
(R)-3-(3-Biphenyl-4-yl-ureido)-N-(2-pyrrolidin-1-yl-ethyl)-3-p-tolyl-propionamide
3-(3-Biphenyl-4-yl-ureido)-3-p-tolyl-propionic acid. To a solution of 3-amino-3-(p-tolyl)propionic acid (0.50 g, 2.79 mmol) and TEA (0.26 g, 2.56 mmol) in CH2Cl2 (28 mL) cooled to 0° C., was added 4-isocyanato-biphenyl (0.55 g, 2.79 mmol). The mixture was stirred at 0° C. for 30 min and was then brought to rt and stirred for an additional 3 h. The solvent was removed, water (20 mL) was added to the clear residue, and the mixture was then chilled to 0° C. and acidified using 1 N HCl. The resulting precipitate was collected by filtration, washed with copious amounts of H2O, and dried under vacuum to afford 0.87 g (83%) of the desired product as a white solid. MS (electrospray): mass calculated for C23H22N2O3, 374.16; m/z found, 413.0 [M+Na]+. 1H NMR (400 MHz, DMSO-d6): 8.74 (s, 1H), 7.65–7.29 (m, 9H), 7.25 (d, J=8.1 Hz, 2H), 7.14 (d, J=7.9 Hz, 2H), 6.64 (d, J=8.5 Hz, 1H), 5.11–5.06 (m, 1H), 2.74–2.67 (m, 2H), 2.27 (s, 3H).

reactant | 3-(3-Biphenyl-4-yl-ureido)-3-p-tolyl-propionic acid | C1(=CC=C(C=C1)NC(NC(CC(=O)O)C1=CC=C(C=C1)C)=O)C1=CC=CC=C1 | C23H22N2O3
reactant | 3-amino-3-(p-tolyl)propionic acid | 2.79 mmol, 0.50 g | NC(CC(=O)O)C1=CC=C(C=C1)C | C10H13NO2
reactant | 4-isocyanato-biphenyl | 2.79 mmol, 0.55 g | N(=C=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C13H9NO
solvent | CH2Cl2 | 28 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(3-Biphenyl-4-yl-ureido)-N-(2-pyrrolidin-1-yl-ethyl)-3-p-tolyl-propionamide | 0.87 g, 83% | C1(=CC=C(C=C1)NC(N[C@H](CC(=O)NCCN1CCCC1)C1=CC=C(C=C1)C)=O)C1=CC=CC=C1 | C29H34N4O2
